US07572808B2
A. Preparation of 6-((8-bromo-7-(4-chlorophenyl)-3-oxo-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)nicotinonitrile
To a stirred mixture of 8-bromo-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (1.07 g, 3.31 mmol) in DMF (15 mL) at room temperature under argon was added K2CO3 (0.91 g, 6.62 mmol) and 6-(chloromethyl)nicotinonitrile (0.63 g, 4.14 mmol). The mixture was then heated to 60° C. for 7 h, after which HPLC indicated complete reaction. The mixture was cooled to room temperature, diluted with water (100 mL), and stirred for 30 min. Solid was collected by filtration and washed with water (10 mL×5), then methanol (3 mL×3), and finally dried under vacuum. The title compound (0.98 g) was obtained as a tan solid. HPLC/MS: retention time=3.4 min, [M+H]+=442.

reactant | 8-bromo-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 3.31 mmol, 1.07 g | BrC=1C=2N(C=CC1C1=CC=C(C=C1)Cl)C(NN2)=O | C12H7BrClN3O
reactant | K2CO3 | 6.62 mmol, 0.91 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 6-(chloromethyl)nicotinonitrile | 4.14 mmol, 0.63 g | ClCC1=NC=C(C#N)C=C1 | C7H5ClN2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 6-((8-bromo-7-(4-chlorophenyl)-3-oxo-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)nicotinonitrile | 0.98 g | BrC=1C=2N(C=CC1C1=CC=C(C=C1)Cl)C(N(N2)CC2=NC=C(C#N)C=C2)=O | C19H11BrClN5O
